US08193199B2
Prepared according to Procedure A using 2-chloro-8-methylquinoline-3-carbaldehyde (1.07 g, 5.21 mmol), 2-fluoro-6-methoxyphenylboronic acid (0.9738 g, 5.73 mmol, 1.1 eq), tetrakis(triphenylphosphine)palladium (0.3011 g, 5% mmol), and sodium carbonate (2.76 g, 26.1 mol, 5 eq) in MeCN (37.5 mL) and water (12.5 mL). After purification, 2-(2-fluoro-6-methoxyphenyl)-8-methylquinoline-3-carbaldehyde was obtained as white solid. 1H NMR (DMSO-d6) δ ppm 9.88 (1H, s), 8.95 (1H, s), 8.10 (1H, d, J=8.1 Hz), 7.82 (1H, d, J=7.1 Hz), 7.62-7.69 (1H, m), 7.49-7.59 (1H, m), 6.96-7.10 (2H, m), 3.71 (3H, s), 2.70 (3H, s). Mass Spectrum (ESI) m/e=296.0 (M+1).

reactant | 2-chloro-8-methylquinoline-3-carbaldehyde | 5.21 mmol, 1.07 g | ClC1=NC2=C(C=CC=C2C=C1C=O)C | C11H8ClNO
reactant | 2-fluoro-6-methoxyphenylboronic acid | 5.73 mmol, 0.9738 g, 1.1 eq | FC1=C(C(=CC=C1)OC)B(O)O | C7H8BFO3
reactant | sodium carbonate | 26.1 mol, 2.76 g, 5 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | MeCN | 37.5 mL | CC#N | C2H3N
solvent | water | 12.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.3011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-fluoro-6-methoxyphenyl)-8-methylquinoline-3-carbaldehyde | FC1=C(C(=CC=C1)OC)C1=NC2=C(C=CC=C2C=C1C=O)C | C18H14FNO2
